US06734179B2
To a solution of 0.9 g (0.0034 Mol) (5-cyclohexyl-2-methoxy-phenyl)-thiourea in 18 ml chloroform were added 0.2 ml (0.0041 Mol) bromine, dissolved in 4.5 ml chloroform and heated to reflux for 16 h. The reaction mixture was diluted with dichloromethane, extracted with sat. aqueous potassium carbonate and brine, dried over sodium sulfate and evaporated to dryness in vacuo. The residue was crystallized from ethyl acetate/diethyl ether to yield 0.61 g (68%) of 7-cyclohexyl-4-methoxy-benzothiazol-2-ylamine as an off-white solid; F.p.: 199-200° C.

reactant | (5-cyclohexyl-2-methoxy-phenyl)-thiourea | 0.0034 Mol, 0.9 g | C1(CCCCC1)C=1C=CC(=C(C1)NC(=S)N)OC | C14H20N2OS
reactant | bromine | 0.0041 Mol, 0.2 ml | BrBr | Br2
solvent | chloroform | 18 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 4.5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | ClCCl | CH2Cl2
product | 7-cyclohexyl-4-methoxy-benzothiazol-2-ylamine | 0.61 g, 68% | C1(CCCCC1)C1=CC=C(C=2N=C(SC21)N)OC | C14H18N2OS
